US08669266B2
(iv) 4-(2-Amino-acetyl)-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester
To a solution of 1.63 g 4-(2-Benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester in 40 ml ethanol were added 200 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 12 h. The reaction mixture was filtrated over a plug of Celite®, washed with ethanol and concentrated. Yield: 1.02 g colorless oil.

reactant | 4-(2-Benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester | 1.63 g | FC(CCOC(=O)N1CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)(F)F | C18H22F3N3O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-(2-Amino-acetyl)-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester | FC(CCOC(=O)N1CCN(CC1)C(CN)=O)(F)F | C10H16F3N3O3
